US07799894B2
(1) Synthesis of 2,3-di(4-methylphenyl)-5-(4-nitrophenyl)aminoquinoxaline
While agitating 3.0 g (9.2 mmol) of 2,3-di(4-methyl-phenyl)-5-aminoquinoxaline, 1.4 g (9.9 mmol) of 4-fluoronitrobenzene and 100 ml of dimethylsulfoxide, 3.4 g (30.3 mmol) of t-butoxy potassium was gently added. After completion of the addition, the reaction container was purged with nitrogen, followed by agitation at room temperature for 20 hours. After completion of the reaction, 100 ml of water was added while cooling, and an organic phase was extracted by use of a chloroform solvent, followed by concentration to obtain the intended product.

reactant | 2,3-di(4-methyl-phenyl)-5-aminoquinoxaline | 9.2 mmol, 3.0 g | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)C)N | C22H19N3
reactant | 4-fluoronitrobenzene | 9.9 mmol, 1.4 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | t-butoxy potassium | 30.3 mmol, 3.4 g | C(C)(C)(C)O[K]
solvent | dimethylsulfoxide | 100 ml | CS(=O)C | C2H6OS
product | 2,3-di(4-methylphenyl)-5-(4-nitrophenyl)aminoquinoxaline | CC1=CC=C(C=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=C(C=C1)C)NC1=CC=C(C=C1)[N+](=O)[O-] | C28H22N4O2
